US06448242B1
Preparation of 1,1′-octamethylenedi[4-[(E,E)-5-(3,4,5-trimethoxyphenyl)-2,4-pentadienoyl]hexahydro-1,4-diazepine]dihydrochloride
Concentrated hydrochloric acid (0.030 ml; 0.36 mmol) was added to a solution of 1,1′-octamethylenedi[4-[(E,E)-5-(3,4,5-trimethoxyphenyl)-2,4-pentadienoyl]hexahydro-1,4-diazepine] (76 mg; 0.095 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. A process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice to obtain the title compound as a pale yellow amorphous powder.

reactant | hydrochloric acid | 0.36 mmol, 0.030 ml | Cl | ClH
reactant | 1,1′-octamethylenedi[4-[(E,E)-5-(3,4,5-trimethoxyphenyl)-2,4-pentadienoyl]hexahydro-1,4-diazepine] | 0.095 mmol, 76 mg | COC=1C=C(C=C(C1OC)OC)/C=C/C=C/C(=O)N1CCN(CCC1)CCCCCCCCN1CCN(CCC1)C(\C=C\C=C\C1=CC(=C(C(=C1)OC)OC)OC)=O | C46H66N4O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,1′-octamethylenedi[4-[(E,E)-5-(3,4,5-trimethoxyphenyl)-2,4-pentadienoyl]hexahydro-1,4-diazepine]dihydrochloride | Cl.Cl.COC=1C=C(C=C(C1OC)OC)/C=C/C=C/C(=O)N1CCN(CCC1)CCCCCCCCN1CCN(CCC1)C(\C=C\C=C\C1=CC(=C(C(=C1)OC)OC)OC)=O | InChI=1S/C46H66N4O8.2ClH/c1-53-39-33-37(34-40(54-2)45(39)57-5)19-11-13-21-43(51)49-27-17-25-47(29-31-49)23-15-9-7-8-10-16-24-48-26-18-28-50(32-30-48)44(52)22-14-12-20-38-35-41(55-3)46(58-6)42(36-38)56-4;;/h11-14,19-22,33-36H,7-10,15-18,23-32H2,1-6H3;2*1H/b19-11+,20-12+,21-13+,22-14+;;
